US04665149
1. Preparation of Bisphenol A/Cyanuric Chloride Adduct (12 Hydroxyl Groups Per Mole of Cyanuric Chloride)
Following the procedure of Example 1-A, 9 grams (0.0448 mole) of cyanuric chloride, 61.29 (0.269 mole) of bisphenol A, and 70.29 grams of methyl ethyl ketone were heated until temperature reached 50° C., then 12.88 grams (0.161 mole) of 50% aqueous caustic was added during about one hour (3600 s). The mixture was digested an additional hour (3600 s) at 60° C. The reaction contents was then cooled to ambient, and neutralized using concentrated hydrochloric acid. The organic phase was then washed with water to remove the salt formed, and the excess solvent removed by vacuum distillation up to 150° C. for 30 minutes (1800 s).

reactant | cyanuric chloride | 0.0448 mole, 9 grams | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | hydrochloric acid | Cl | ClH
solvent | methyl ethyl ketone | 70.29 grams | C(C)C(=O)C | C4H8O
product | Bisphenol A Cyanuric Chloride | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O.N1=C(Cl)N=C(Cl)N=C1Cl | InChI=1S/C15H16O2.C3Cl3N3/c1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;4-1-7-2(5)9-3(6)8-1/h3-10,16-17H,1-2H3;
